US05366972
5-Acetyl-2-chloro-11-cyclopropyl-5,11-dihydro-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one
A mixture of 2-chloro-11-cyclopropyl-5,11-dihydro-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one and acetic anhydride with 4-dimethylaminopyridine was heated at 130° C. until a clear solution was obtained. The solvent was evaporated and the residue was chromatographed over silica gel with ethyl acetate/hexane to give 0.85 g of the title compound, which crystallized from isopropyl ether/ethyl acetate, m.p. 204°-206° C.

reactant | 2-chloro-11-cyclopropyl-5,11-dihydro-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | ClC=1C=C(C=2NC(C3=C(N(C2N1)C1CC1)N=CC=C3)=O)C | C15H13ClN4O
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
product | 5-Acetyl-2-chloro-11-cyclopropyl-5,11-dihydro-4-methyl-6H-dipyrido[3,2-b:2',3'-e][1,4]diazepin-6-one | 0.85 g | C(C)(=O)N1C2=C(N(C3=C(C1=O)C=CC=N3)C3CC3)N=C(C=C2C)Cl | C17H15ClN4O2
